US06410592B1
B: cis-2-(N-Methylamino)methyl-1-phenyl-6-(thien-2-yl)1,2,3,4-tetrahydronaphthalene hydrochloride
To a solution of cis-2-(N-benzyl-N-methylamino)methyl-1-phenyl-1,2,3,4-tetrahydro-6-(2-thienyl)naphthalene (727 mg) in dichloromethane (75 cm3) which was being maintained at 0° C. under nitrogen was added 1-chloroethylchloroformate (0.208 cm3) dropwise. The mixture was then allowed to warm to room temperature, before being heated to reflux. After approximately 2 h analysis of the reaction mixture indicated complete consumption of the starting material. The dichloromethane was evaporated and the residue was then taken up into methyl alcohol and heated to reflux for 1 h. The solvent was evaporated to afford the title compound which was used in the next reaction without further purification; positive ion ESI (M+H)+ 334.2.

reactant | cis-2-(N-benzyl-N-methylamino)methyl-1-phenyl-1,2,3,4-tetrahydro-6-(2-thienyl)naphthalene | 727 mg | C(C1=CC=CC=C1)N(C)C[C@@H]1[C@@H](C2=CC=C(C=C2CC1)C=1SC=CC1)C1=CC=CC=C1 | C29H29NS
reactant | 1-chloroethylchloroformate | 0.208 cm3 | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 75 cm3 | ClCCl | CH2Cl2
product | cis-2-(N-Methylamino)methyl-1-phenyl-6-(thien-2-yl)1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.CNC[C@@H]1[C@@H](C2=CC=C(C=C2CC1)C=1SC=CC1)C1=CC=CC=C1 | InChI=1S/C22H23NS.ClH/c1-23-15-19-10-9-17-14-18(21-8-5-13-24-21)11-12-20(17)22(19)16-6-3-2-4-7-16;/h2-8,11-14,19,22-23H,9-10,15H2,1H3;1H/t19-,22+;/m1./s1
